US07511051B2
To prepare compound 5 of FIG. 2, 135 mg (0.428 mmol) cidofovir was exposed to 135 mg (1.04 mmol) DIEA and dissolved in 4 mL DMF. A HPMPC-DEEA salt was obtained after solvent was removed under vacuum. 650 mg (1.8 mmol) dipeptide (t-BOC-Val-Ser-t-butyl described above) was added to a reaction flask containing the HPMPC-DIEA salt and 4 mL dry DMF. 660 mg (1.27 mmol) PyBOP and 425 μL (2.44 mmol) DIEA were added, and the reaction took place stirring under N2 (g) at 40° C. for 1 h. An additional 330 mg (0.635 mmol) PyBOP was added and left for 3 additional hours. Solvents were removed under vacuum, and a silica gel column chromatography purification was performed [eluent; CH2Cl2:acetone:methanol, 20:10:1.]. Solvent was removed and deprotection of the t-BOC and t-butoxy groups was performed in 4 mL of CH2Cl2 in the presence of 2 mL of 99% TFA for 3 h at room temperature. Solvents were removed under vacuum and ether was added to precipitate the final compound, 5, which was filtered by methanol on a funnel containing a silica gel layer. Preparative HPLC purification on a C-18 column (5 μm, 100 Å, 21.4×250 mm by Varian) was obtained using a mobile phase containing 0.1 M TEA and 3.5% acetonitrile at pH 6.7 adjusted with acetic acid. A fraction of the sample was purified by preparative HPLC methods and evaluated by NMR and HR-MS techniques. 1H NMR (CD3OD): δ 0.94 (6H, m), 2.10 (1H, m), 2.94-5.73 (10H, m), 5.73 (1H, m), 7.40 (1H, m). 31P NMR (CD3OD): δ 14.3 and 15.6 (1P, 2s). Exact mass (C16H26N5O8P); 447.1519 m/z.

reactant | cidofovir | 0.428 mmol, 135 mg | C1=CN(C(=O)N=C1N)C[C@@H](CO)OCP(=O)(O)O | C8H14N3O6P
reactant | DIEA | 1.04 mmol, 135 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | HPMPC DEEA | C1=CN(C(=O)N=C1N)C[C@@H](CO)OCP(=O)(O)O.CCN(CC)CCO | InChI=1S/C8H14N3O6P.C6H15NO/c9-7-1-2-11(8(13)10-7)3-6(4-12)17-5-18(14,15)16;1-3-7(4-2)5-6-8/h1-2,6,12H,3-5H2,(H2,9,10,13)(H2,14,15,16);8H,3-6H2,1-2H3/t6-;/m0./s1
